US06548493B1
2-[4-methoxy-2-(trifluoromethyl)phenyl]-5,6,8,9,10,11-hexahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline
The title compound (0.60 g, 98%) was prepared by the general method of Example 312, step B from tert-butyl 2-[4-methoxy-2-(trifluoromethyl)phenyl]-5,6,8,9,10,11-hexahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline-10(7aH)-carboxylate (0.78 g, 1.6 mmol) as a white foam. 1H NMR (CDCl3, 300 MHz) δ2.20-2.30 (m, 2H), 2.79 (t, J=5.4 Hz, 2H), 2.90-3.20 (m, 3H), 3.30 (t, J=5.8 Hz, 2H), 3.91 (s, 3H), 3.98 (t, J=5.8 Hz, 2H), 4,12 (s, 2H), 6.84 (s, 1H), 7.07 (dd, J=2.5, 8.4 Hz, 1H), 7.18 (s, 1H), 7.25-7.35 (m, 2H) ppm. MS (ESI): 428 (base, M+CH3CN).

reactant | tert-butyl 2-[4-methoxy-2-(trifluoromethyl)phenyl]-5,6,8,9,10,11-hexahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline-10(7aH)-carboxylate | 1.6 mmol, 0.78 g | COC1=CC(=C(C=C1)C=1C=C2CCCN3C2=C(C1)C1C3CCN(C1)C(=O)OC(C)(C)C)C(F)(F)F | C27H31F3N2O3
solvent | CH3CN | CC#N | C2H3N
product | 2-[4-methoxy-2-(trifluoromethyl)phenyl]-5,6,8,9,10,11-hexahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline | 0.60 g, 98% | COC1=CC(=C(C=C1)C=1C=C2CCCN3C2=C(C1)C1=C3CCNC1)C(F)(F)F | C22H21F3N2O
